US04304728
Ethyl 6-(4-hydroxyphenyl)-4-oxo-4H-pyran-2-carboxylate
Boron tribromide (5.0 g) was added dropwise to a stirred solution of ethyl 6-(4-methoxyphenyl)-4-oxo-4H-pyran-2-carboxylate (5.48 g) in dichloromethane (40 ml) cooled to 0°-5° C. After 2 hours at below 5° C., water was cautiously added to the reaction mixture, with cooling, and the yellow solid which precipitated was filtered off. Recrystallisation from ethanol and then from ethyl acetate gave the title product as yellow crystals (mp 213°-215° C.).

reactant | Boron tribromide | 5.0 g | B(Br)(Br)Br | BBr3
reactant | ethyl 6-(4-methoxyphenyl)-4-oxo-4H-pyran-2-carboxylate | 5.48 g | COC1=CC=C(C=C1)C1=CC(C=C(O1)C(=O)OCC)=O | C15H14O5
reactant | water | O | H2O
solvent | dichloromethane | 40 ml | ClCCl | CH2Cl2
product | Ethyl 6-(4-hydroxyphenyl)-4-oxo-4H-pyran-2-carboxylate | OC1=CC=C(C=C1)C1=CC(C=C(O1)C(=O)OCC)=O | C14H12O5
